US07723399B2
Preparation of diisopropyl-thiocarbamic acid —O-(1,3-dioxo-1,3-dihydro-isoindol-2-yl) ester
This compound was prepared in analogy to example 8 starting from 32.35 g (0.18 mol) of diisopropyl-thiocarbamoyl chloride (prepared as described in (Chem. Ber., 101, (1968), 113) and N-hydroxyphthalimide. Yield 21.44 g of white crystals after recrystallization from hexane, mp. 73-75° C.

reactant | diisopropyl-thiocarbamoyl chloride | 0.18 mol, 32.35 g | C(C)(C)N(C(=S)Cl)C(C)C | C7H14ClNS
reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | diisopropyl-thiocarbamic acid —O-(1,3-dioxo-1,3-dihydro-isoindol-2-yl) ester | O=C1N(C(C2=CC=CC=C12)=O)OC(N(C(C)C)C(C)C)=S | C15H18N2O3S
